US07393965B2
A 300 ml two-necked flask equipped with a three-way cock, a dropping funnel and a magnetic stirrer, was thoroughly purged with nitrogen. Into the flask was introduced 2,7-di-tert-butylfluorene 3.01 g (10.81 mmol), and dissolved by addition of dehydrated diethyl ether 60 ml. With cooling in an ice bath, 1.56 mol/L n-hexane solution of n-butyllithium, 6.9 ml (11.0 mmol), was added to the solution, and the mixture was stirred in a nitrogen atmosphere at room temperature for 20 hours. Separately, a 500 ml three-necked flask equipped with a 100 ml dropping funnel, a three-way cock and a magnetic stirrer was thoroughly purged with nitrogen, and dehydrated n-hexane 120 ml and dichlorodicyclohexylsilane 2.6 ml (11.0 mmol) were introduced into the flask. With the flask cooled in a dry ice/methanol bath, the above-prepared solution was dropwise added over a period of 1 hour by means of the dropping funnel. While allowing the liquid temperature to rise gradually to room temperature, the contents were stirred for 3 days in a nitrogen atmosphere. The resulting slurry was filtered to remove solids, and the solvent of the filtrate was distilled away under reduced pressure to obtain 5.5 g of chlorodicyclohexyl(2,7-di-tert-butylfluorenyl)silane as a light yellow solid (11.0 mmol, 100% yield). The 1H NMR spectrum as measured with respect to the chlorodicyclohexyl(2,7-di-tert-butylfluorenyl)silane is given below:

reactant | 2,7-di-tert-butylfluorene | 10.81 mmol, 3.01 g | C(C)(C)(C)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(C)(C)C | C21H26
reactant | diethyl ether | 60 ml | C(C)OCC | C4H10O
reactant | n-butyllithium | C(CCC)[Li]
reactant | dichlorodicyclohexylsilane | 11.0 mmol, 2.6 ml | Cl[Si](C1CCCCC1)(C1CCCCC1)Cl | C12H22Cl2Si
solvent | n-hexane | 120 ml | CCCCCC | C6H14
solvent | n-hexane | 1.56 mol/L | CCCCCC | C6H14
product | chlorodicyclohexyl(2,7-di-tert-butylfluorenyl)silane | 11.0 mmol, 5.5 g, 100% yield | Cl[Si](C1=C(C=CC=2C3=CC=C(C=C3CC12)C(C)(C)C)C(C)(C)C)(C1CCCCC1)C1CCCCC1 | C33H47ClSi
